US04182757
3.6 g of D-galactose, 5 g of secondary butylamine and 3.0 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 4.5 g of 1-(2-chloroethyl)-3-sec.butyl-3-D-galactopyranosylurea are thereby obtained as pale brown caramel.

reactant | D-galactose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | secondary butylamine | 5 g | C(C)(CC)N | C4H11N
reactant | 2-chloroethyl isocyanate | 3.0 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-sec.butyl-3-D-galactopyranosylurea | 4.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C(C)CC | C13H25ClN2O6
